US06605608B1
(2S)-2-t-butoxycarbonylamino-3-cyclohexylmethoxypropanoic acid
To a solution of (2S)-3-hydroxy-2-t-butoxycarbonylaminopropanoic acid (10.11 g) in dimethylformamide (200 ml, abbreviated as DMF), sodium hydride (60%, 3.95 g) was added under cooling with ice. The mixture was stirred for 30 minutes at 0° C. To the reaction mixture, (bromomethyl)cyclohexane (9.0 ml) was added at a dropwise under cooling with ice. Tetra-n-butylammonium iodide (910 mg) was added thereto. The mixture was stirred for 23 hours at room temperature. In addition, to the reaction mixture, (bromomethyl)cyclohexane (2.1 ml) was added at a dropwise. The mixture was stirred for 4 hours. Again, (bromomethyl)cyclohexane (2.1 ml) was added at a dropwise thereto. The mixture was stirred for 25 hours at room temperature. After the concentration of reaction mixture, the residue was diluted with 1N—HCl and extracted with ethyl acetate. The extract solution was washed by water and saturated solution of sodium chloride successively, dried over anhydrous sodium sulfate and concentrated. The residue was purified with column chromatography on silica gel (chloroform:methanol=97:3) to obtain the title compound (2.52 g) having the following physical data.

reactant | (2S)-3-hydroxy-2-t-butoxycarbonylaminopropanoic acid | 10.11 g | OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C8H15NO5
reactant | sodium hydride | 3.95 g | [H-].[Na+]
reactant | (bromomethyl)cyclohexane | 9.0 ml | BrCC1CCCCC1 | C7H13Br
reactant | (bromomethyl)cyclohexane | 2.1 ml | BrCC1CCCCC1 | C7H13Br
reactant | (bromomethyl)cyclohexane | 2.1 ml | BrCC1CCCCC1 | C7H13Br
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | Tetra-n-butylammonium iodide | 910 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | HCl | Cl | ClH
product | (2S)-2-t-butoxycarbonylamino-3-cyclohexylmethoxypropanoic acid | 2.52 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COCC1CCCCC1 | C15H27NO5
